US05527827
5-Fluoro-3-[1-hydroxy-1-(thiazol-2-yl)propyl]phenol
To a solution of 5-fluoro-3-[1-hydroxy-1-(thiazol-2-yl)propyl](O-benzyl)phenol (200 mg, 0.58 mmol) in MeOH (9 mL) was added 10% Pd on charcoal (200 mg) and ammonium formate (180 mg, 2.9 mmol). The reaction mixture was refluxed for 2 h and then filtrated through a pad of celite and washed with EtOAc. After evaporation of the solvent, the residue was purified by chromatography on silica gel using a mixture of hexane:EtOAc 7:3 to give 116 mg (79%) of the title compound.

reactant | 5-fluoro-3-[1-hydroxy-1-(thiazol-2-yl)propyl](O-benzyl)phenol | 0.58 mmol, 200 mg | FC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(CC)(C=1SC=CN1)O | C19H18FNO2S
reactant | ammonium formate | 2.9 mmol, 180 mg | C(=O)[O-].[NH4+]
solvent | MeOH | 9 mL | CO | CH4O
catalyst | Pd on charcoal | 200 mg | [Pd] | Pd
product | 5-Fluoro-3-[1-hydroxy-1-(thiazol-2-yl)propyl]phenol | 116 mg, 79% | FC=1C=C(C=C(C1)O)C(CC)(C=1SC=CN1)O | C12H12FNO2S
